US06436235B1
a) synthesis of N,N,N′,N′-Tetraallyl-2-hydroxy-1,3-propane Diamine
17.4 g (173.8 mmol) of diallylamine (from Aldrich) and 10.0 g of deionized water are stirred in a round-bottomed flask at 55° C. while 8.08 g (86.48 mmol) epichlorohydrin is added from an addition funnel. After 30 minutes the addition is complete. Then sodium hydroxide (10.0 g, 125 mmol, 50%) is added to the reaction mixture and it is stirred for an additional 3.5 hours, after which time the alkylation is complete as determined gas chromatography. The temperature is then cooled to 25° C. and the pH is made alkaline with caustic. The product is extracted from the reaction mixture with ether (three times, 25 ml). On removal of the ether a clear yellow liquid is obtained with a purity of 98.6% (GC and NMR).

reactant | diallylamine | 173.8 mmol, 17.4 g | C(C=C)NCC=C | C6H11N
reactant | epichlorohydrin | 86.48 mmol, 8.08 g | C(Cl)C1CO1 | C3H5ClO
reactant | sodium hydroxide | 125 mmol, 10.0 g | [OH-].[Na+]
solvent | water | 10.0 g | O | H2O
product | N,N,N′,N′-Tetraallyl-2-hydroxy-1,3-propane Diamine | C(C=C)N(CC(CN(CC=C)CC=C)O)CC=C | C15H26N2O
